US07504408B2
N′-(3-{6-chloro-7-[(6,7-dimethoxyquinazolin-4-yl)amino]-1,3-benzodioxol-4-yl}prop-2-yn-1-yl)-N,N-dimethylurea
This was prepared using the method described in example 4 using 4-chloro-6,7-dimethoxyquinazoline (160 mg, 0.71 mmol), N′-[3-(7-amino-6-chloro-1,3-benzodioxol-4-yl)prop-2-yn-1-yl]-N,N-dimethylurea (232 mg, 0.78 mmol) and sodium bis(trimethylsilyl)amide (1.0M in THF, 1.5 ml) in DMF (3 ml). The crude product was purified by column chromatography on silica using increasing concentrations of methanol in dichloromethane as eluent. There was thus obtained the title compound (265 mg, 77%) as a pale brown solid; NMR Spectrum:DMSOd6) 2.81 (s, 6H), 3.91 (s, 3H), 3.92 (s, 3H), 4.09 (d, 2H), 6.14 (s, 2H), 6.82 (t, 1H), 7.07 (s, 1H), 7.18 (s, 1H), 7.82 (s, 1H), 8.33 (s, 1H), 9.47 (s, 1H); Mass Spectrum: M+H+ 484/486.

reactant | 4-chloro-6,7-dimethoxyquinazoline | 0.71 mmol, 160 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | N′-[3-(7-amino-6-chloro-1,3-benzodioxol-4-yl)prop-2-yn-1-yl]-N,N-dimethylurea | 0.78 mmol, 232 mg | NC1=C(C=C(C2=C1OCO2)C#CCNC(N(C)C)=O)Cl | C13H14ClN3O3
reactant | sodium bis(trimethylsilyl)amide | 1.0M, 1.5 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N′-(3-{6-chloro-7-[(6,7-dimethoxyquinazolin-4-yl)amino]-1,3-benzodioxol-4-yl}prop-2-yn-1-yl)-N,N-dimethylurea | 265 mg, 77% | ClC=1C=C(C2=C(OCO2)C1NC1=NC=NC2=CC(=C(C=C12)OC)OC)C#CCNC(N(C)C)=O | C23H22ClN5O5
